US05688807
5-(1,1-dimethylethyl)-tryptamine hydrochloride was prepared (2.95 g) as described for 5-methyl-7-bromotryptamine hydrochloride in Example 4, except using 4-(1,1-dimethylethyl)-phenylhydrazine hydrochloride (6.00 g) as starting material.

reactant | 5-methyl-7-bromotryptamine hydrochloride | Cl.CC1=CC(=C2NC=C(CCN)C2=C1)Br
reactant | 4-(1,1-dimethylethyl)-phenylhydrazine hydrochloride | 6.00 g | Cl.CC(C)(C)C1=CC=C(C=C1)NN
product | 5-(1,1-dimethylethyl)-tryptamine hydrochloride | Cl.CC(C)(C)C1=CC=C2NC=C(CCN)C2=C1 | InChI=1S/C14H20N2.ClH/c1-14(2,3)11-4-5-13-12(8-11)10(6-7-15)9-16-13;/h4-5,8-9,16H,6-7,15H2,1-3H3;1H
